### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Trigonometric): add the missing `tan_sub` and `tan_sub'` functions for both real and complex numbers

### PR DESCRIPTION
**Pull request by ShreckYe**
While working on some proofs, I found that the `tan_sub` theorems are missing, while there are the corresponding`sin_sub` and `cos_sub` theorems. So I'd like to propose adding these for `tan`.

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean [hunk 1]
```diff
@@ -132,6 +132,40 @@ theorem tan_add' {x y : ℂ}
...
+      constructor
+      · exact x_eq
+      · rcases minus_y_eq with ⟨l, rfl⟩
+        use -l - 1
+        push_cast
+        ring
+  )
+  rw [tan_neg] at this
+  convert this using 2
+  · ring
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean]: This can be somewhat shorter:
```suggestion
  have := tan_add (x := x) (y := -y) <| by
    rcases h with ⟨x_ne, minus_y_ne⟩ | ⟨x_eq, minus_y_eq⟩
    · refine .inl ⟨x_ne, fun l => ?_⟩
      rw [Ne, neg_eq_iff_eq_neg]
      convert minus_y_ne (-l - 1) using 2
      push_cast
      ring
    · refine .inr ⟨x_eq, ?_⟩
      rcases minus_y_eq with ⟨l, rfl⟩
      use -l - 1
      push_cast
      ring
  rw [tan_neg] at this
  convert this using 2
  ring
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks, this is great! One suggestion to make the code a bit more compact.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean (hunk 1 above)
Comment (ShreckYe) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Complex.lean]: Thanks. Suggestion committed.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by ocfnash** [comment]
Thanks!

bors merge
